US08975261B2
2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-3-(piperidin-3-yl)-1,5-naphthyridine (RR3)
To a solution of tert-butyl 3-(2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-1,5-naphthyridin-3-yl)piperidine-1-carboxylate (RR2) (38 mg, 0.08 mmol) in DCM (3 mL) was added concentrated TFA (0.5 mL, 6.5 mmol). After five minutes, saturated sodium bicarbonate (3 mL) was added and the mixture was extracted with EtOAc (3×15 mL). The combined organics were dried over MgSO4, filtered and concentrated in vacuo to afford the title compound, which was sufficiently pure to use in the subsequent step without further purification. HRMS m/z (M+H) 391.2133 found, 391.2129 required.

reactant | tert-butyl 3-(2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-1,5-naphthyridin-3-yl)piperidine-1-carboxylate | 0.08 mmol, 38 mg | COC=1C=CC(=NC1)[C@@H]1[C@H](C1)COC1=NC2=CC=CN=C2C=C1C1CN(CCC1)C(=O)OC(C)(C)C | C28H34N4O4
reactant | TFA | 6.5 mmol, 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium bicarbonate | 3 mL | C([O-])(O)=O.[Na+]
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-3-(piperidin-3-yl)-1,5-naphthyridine | COC=1C=CC(=NC1)[C@@H]1[C@H](C1)COC1=NC2=CC=CN=C2C=C1C1CNCCC1 | C23H26N4O2
